US07053089B2
5-Fluoro-N2-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidine-2,4-diamine
EXAMPLE 95 was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and 2-chloro-5-fluoro-pyrimidin-4-ylamine: MS (m+1)=394.5.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | 2-chloro-5-fluoro-pyrimidin-4-ylamine | ClC1=NC=C(C(=N1)N)F | C4H3ClFN3
product | 5-Fluoro-N2-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-pyrimidine-2,4-diamine | FC=1C(=NC(=NC1)NCC1CCN(CC1)S(=O)(=O)CCC1=CC=CC=C1)N | C18H24FN5O2S
